US04001261
In the manner given in Example 1, 6.844 (20 mmol) of 2-methyl-8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a]-[1,4]benzodiazepine is treated with 40.0 mmol of dimethylmethylene ammonium chloride in dimethylformamide during 2 hours at 100° C. The reaction mixture is quenched on ice, neutralized with 10% aqueous sodium hydroxide and chromatographed over silica gel with 1 l. fractions of 3% methanol/97% chloroform solutions to give 1-(dimethylamino)methyl-2-methyl-8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine of melting point 191°-194° C.

reactant | 2-methyl-8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a]-[1,4]benzodiazepine | CC=1N=C2N(C3=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C3)Cl)C1 | C18H13Cl2N3
reactant | dimethylmethylene ammonium chloride | 40.0 mmol | [Cl-].CC(C)=[NH2+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(dimethylamino)methyl-2-methyl-8-chloro-6-(o-chlorophenyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | CN(C)CC1=C(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl)C | C21H20Cl2N4
